US05001243
3-Fluoro-2-methylthionaphthacene-5,12-dione
1 g (3.4 mmol) of 2,3-difluoronaphthacene-5,12-dione, 0.94 g (6.8 mmol) of potassium carbonate, 0.47 g (6.8 mmol) of sodium methanethiolate and 20 ml of tetrahydrofuran are stirred at 25° C. for 2.5 hours. The mixture is poured into dilute hydrochloric acid and extracted with THF/toluene. The organic phase is dried over sodium sulfate and evaporated. The residue is chromatographed on silica gel with toluene. Yield 0.55 g (50%); melting point 230°-235° C.

reactant | 2,3-difluoronaphthacene-5,12-dione | 3.4 mmol, 1 g | FC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1F)=O)=O | C18H8F2O2
reactant | potassium carbonate | 6.8 mmol, 0.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium methanethiolate | 6.8 mmol, 0.47 g | C[S-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-Fluoro-2-methylthionaphthacene-5,12-dione | FC=1C(=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C1)=O)=O)SC | C19H11FO2S
